US07741327B2
A solution of 3-(2,4-difluoro-phenoxy)-but-2-enoic acid ethyl ester (1.35 g, 5.57 mmol) in carbon tetrachloride (30.9 mL) was treated with N-bromosuccinimide (1.09 g, 6.13 mmol) and benzoyl peroxide (108 mg, 0.44 mmol). The reaction was then heated to reflux (105° C.) for 5 h. At this time, the reaction was cooled to 25° C. and then was placed in the refrigerator overnight. At this time, the reaction was removed from the refrigerator. The resulting precipitate was removed by filtration and was rinsed with carbon tetrachloride (10 mL). The filtrate was concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 2% ethyl acetate/hexanes) afforded impure 4-bromo-3-(2,4-difluoro-phenoxy)-but-2-enoic acid ethyl ester (1.45 g, 81%) as a clear oil. The material was used without further purification.

reactant | 3-(2,4-difluoro-phenoxy)-but-2-enoic acid ethyl ester | 5.57 mmol, 1.35 g | C(C)OC(C=C(C)OC1=C(C=C(C=C1)F)F)=O | C12H12F2O3
reactant | N-bromosuccinimide | 6.13 mmol, 1.09 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30.9 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.44 mmol, 108 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-bromo-3-(2,4-difluoro-phenoxy)-but-2-enoic acid ethyl ester | 1.45 g, 81% | C(C)OC(C=C(CBr)OC1=C(C=C(C=C1)F)F)=O | C12H11BrF2O3
